US04562193
3-methyl-4-[2-(2-methyl-4-pentylphenoxy)ethylamino]thieno[2,3-d]pyrimidine hydrochloride (hydrochloride of Compound No. 15)
5 g (0.0136 mole) of 3-methyl-4-[2-(2-methyl-4-pentylphenoxy)ethylamino]thieno[2,3-d]pyrimidine (Compound No. 15) were dissolved in 50 ml of ethanol, and 10 ml of concentrated hydrochloric acid were added at room temperature to the solution. The mixture was stirred for 10 minutes, after which the crystals which precipitated were collected by filtration and recrystallised from ethanol, giving 5.4 g (yield 98%) of the title compound in the form of colourless needles melting at 181°-183° C. This compound is identified in the Tables which follow as "15-HCl".

reactant | 3-methyl-4-[2-(2-methyl-4-pentylphenoxy)ethylamino]thieno[2,3-d]pyrimidine | 0.0136 mole, 5 g | CN1CN=C2C(=C1NCCOC1=C(C=C(C=C1)CCCCC)C)C=CS2 | C21H29N3OS
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-methyl-4-[2-(2-methyl-4-pentylphenoxy)ethylamino]thieno[2,3-d]pyrimidine hydrochloride | 5.4 g, yield 98% | Cl.CN1CN=C2C(=C1NCCOC1=C(C=C(C=C1)CCCCC)C)C=CS2 | InChI=1S/C21H29N3OS.ClH/c1-4-5-6-7-17-8-9-19(16(2)14-17)25-12-11-22-20-18-10-13-26-21(18)23-15-24(20)3;/h8-10,13-14,22H,4-7,11-12,15H2,1-3H3;1H
